US05679688
Step A: N-Quinaldoyl-3-cyano-L-alanine:
To a mixture of 0.198 g (0.69 mmol) of N-quinaldoyl-L-asparagine and 0.24 ml (1.38 mmol) of N,N-diisopropylethylamine in 1 ml of chloroform was added 0.146 g (0.71 mmol) of dicyclohexylcarbodiimide. The reaction mixture was stirred for 24 hr. at room terperature, then partitioned between 10ml of 5% sodium bicarbonate and 10 ml of ether. The aqueous phase was acidified to pH2 and the acid was taken up by extraction with chloroform (3×10ml). The organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated to give 0.101 g of crude product. This was recrystallized from a small portion of methylene chloride to give 0.06 g of the title compound melting at 144°-146° C.; NMR (5% DMSO-d6 in CDCl3): 3.22 (d, 2H, ala CH2); 4.95 (m, 1H, ala CH); 7.2-8.57 (m, 7H, aromatic, OH); 9.19(d, 1H, NH).

reactant | N-quinaldoyl-L-asparagine | 0.69 mmol, 0.198 g | C(C1=NC2=CC=CC=C2C=C1)(=O)N[C@@H](CC(N)=O)C(=O)O | C14H13N3O4
reactant | N,N-diisopropylethylamine | 1.38 mmol, 0.24 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dicyclohexylcarbodiimide | 0.71 mmol, 0.146 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Quinaldoyl-3-cyano-L-alanine | 0.06 g | C(C1=NC2=CC=CC=C2C=C1)(=O)N[C@@H](CC#N)C(=O)O | C14H11N3O3
